* v12S autonomous single-tile lifecycle: lease request -> local rebuild -> query -> invalidation -> exact fallback
.lib "/mnt/data/sky130_pdk_v12s/sky130A/libs.tech/combined/sky130.lib.spice" tt
.temp 25
.option klu
VDD vdd 0 1.8
* ------------------------------------------------------------------
* recovery reservoir shared by soma reset and lease demotion
CREC rec 0 10p IC=.2
* ------------------------------------------------------------------
* physical lease: two successful prior exact uses build hotness naturally
XLEASE lease 0 sky130_fd_pr__cap_mim_m3_1 w=3 l=3
XPACK up 0 sky130_fd_pr__cap_mim_m3_1 w=1 l=1
.ic v(lease)=.2
VPREB preb 0 PWL(0 1.8 1u 1.8 1.001u 0 3u 0 3.001u 1.8 8u 1.8 8.001u 0 10u 0 10.001u 1.8 70u 1.8)
VSH sh 0 PWL(0 0 4u 0 4.001u 1.8 6u 1.8 6.001u 0 11u 0 11.001u 1.8 13u 1.8 13.001u 0 70u 0)
VSHB shb 0 PWL(0 1.8 4u 1.8 4.001u 0 6u 0 6.001u 1.8 11u 1.8 11.001u 0 13u 0 13.001u 1.8 70u 1.8)
XPRE up preb vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.5
XSHN up sh lease 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XSHP up shb lease vdd sky130_fd_pr__pfet_01v8 W=.84 L=.5
* confirmed-error lease dump uses two-device off stack into recovery rail
VERR err 0 PWL(0 0 42u 0 42.001u 1.8 70u 1.8)
* long-channel transmission-gate demotion: equalize lease to recovery rail without threshold undershoot
XEDN lease err rec 0 sky130_fd_pr__nfet_01v8 W=2 L=1
* sleep request: hot lease must discharge request node before 0.25us shared deadline
VREQPRE reqpre 0 PWL(0 0 15u 0 15.001u 1.8 18u 1.8)
VPROBE probe 0 PWL(0 0 16.020u 0 16.021u 1.8 18u 1.8)
XREQP reqb reqpre vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
XREQE reqb probe reqmid 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XREQL reqmid lease 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
CREQ reqb 0 10f
* ------------------------------------------------------------------
* ONE exact VALID bit. Sleep search writes 1 after request; error writes 0.
* Long-channel cell: slow/low-leak storage, fast write access.
VWL wl 0 PWL(0 0 20u 0 20.001u 1.8 20.5u 1.8 20.501u 0 42u 0 42.001u 1.8 42.5u 1.8 42.501u 0 70u 0)
VBL bl 0 PWL(0 1.8 42u 1.8 42.001u 0 70u 0)
VBLB blb 0 PWL(0 0 42u 0 42.001u 1.8 70u 1.8)
XVP1 q qb vdd vdd sky130_fd_pr__pfet_01v8 W=1 L=1
XVN1 q qb 0 0 sky130_fd_pr__nfet_01v8 W=1.5 L=1
XVP2 qb q vdd vdd sky130_fd_pr__pfet_01v8 W=1 L=1
XVN2 qb q 0 0 sky130_fd_pr__nfet_01v8 W=1.5 L=1
XVA1 q wl bl 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
XVA2 qb wl blb 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
CQ q 0 2f
CQB qb 0 2f
.ic v(q)=0 v(qb)=1.8
* ------------------------------------------------------------------
* two repeated motif queries: first after rebuild at30us; second after invalidation at50us
VB3P b3p 0 PULSE(0 .2 30u 1n 1n 8u 20u)
VB3N b3n 0 0
VB2P b2p 0 0
VB2N b2n 0 PULSE(0 .2 30u 1n 1n 8u 20u)
VB1P b1p 0 PULSE(0 .2 30u 1n 1n 8u 20u)
VB1N b1n 0 0
VB0P b0p 0 0
VB0N b0n 0 PULSE(0 .2 30u 1n 1n 8u 20u)
VTE0 te0 0 PULSE(0 0.1 30u 1n 1n 8u 20u)
VTE1 te1 0 PULSE(0 0 30u 1n 1n 8u 20u)
CG0 g0 0 40f
CG1 g1 0 40f
.ic v(g0)=.44 v(g1)=.44 v(h0)=.44 v(h1)=.44 v(mx0)=.44 v(mx1)=.44 v(tx0)=.44 v(tx1)=.44
* exact Grammar 1010
XG00 g0 b3p sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XG01 g0 b2n sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XG02 g0 b1p sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XG03 g0 b0n sky130_fd_pr__cap_mim_m3_1 w=2 l=2
* partial Grammar 1001
XG10 g1 b3p sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XG11 g1 b2n sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XG12 g1 b1n sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XG13 g1 b0p sky130_fd_pr__cap_mim_m3_1 w=2 l=2
* pre-placed programmable passive Myelin slots; q installs/removes them locally
XMY0 g0 mx0 sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XMY1 g1 mx1 sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XMYS0 mx0 q h0 0 sky130_fd_pr__nfet_01v8 W=.42 L=.15
XMYS1 mx1 q h1 0 sky130_fd_pr__nfet_01v8 W=.42 L=.15
* capacitive stable template slots converge on same local dendrites
XTM0 te0 tx0 sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XTM1 te1 tx1 sky130_fd_pr__cap_mim_m3_1 w=2 l=2
XTMS0 tx0 q h0 0 sky130_fd_pr__nfet_01v8 W=.42 L=.15
XTMS1 tx1 q h1 0 sky130_fd_pr__nfet_01v8 W=.42 L=.15
CH0 h0 0 10f
CH1 h1 0 10f
* ------------------------------------------------------------------
* robust somas + shared competition. Digital gates only touch these 100fF somas, never tiny dendrites.
VPRE pre 0 PWL(0 0 31u 0 31.001u 1.8 43u 1.8 43.001u 0 51u 0 51.001u 1.8 65u 1.8)
XP0 s0 pre vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
XP1 s1 pre vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
* VALID=0 clamps somas high, guaranteeing invalid physical structure cannot fire
XVC0 s0 q vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
XVC1 s1 q vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
CS0 s0 0 100f
CS1 s1 0 100f
RRUN vdd run 50meg
CRUN run 0 50f IC=1.8
XD0 s0 h0 d0 0 sky130_fd_pr__nfet_01v8 W=.42 L=1
XT0 d0 run 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XD1 s1 h1 d1 0 sky130_fd_pr__nfet_01v8 W=.42 L=1
XT1 d1 run 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
* soma->spike; shared inhibition senses only robust full-swing-ish spike nodes
XSP0 sp0 s0 vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XSN0 sp0 s0 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
XSP1 sp1 s1 vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XSN1 sp1 s1 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
CSP0 sp0 0 20f
CSP1 sp1 0 20f
* long weak shared sensors delay inhibition until winner spike is robust
XIS0 run sp0 0 0 sky130_fd_pr__nfet_01v8 W=.42 L=16
XIS1 run sp1 0 0 sky130_fd_pr__nfet_01v8 W=.42 L=16
* ------------------------------------------------------------------
* dual full-swing Myelin boundary with self-locking winner capture.
* capture is high for a new query. First valid winner sets exactly one route hold, which pulls capture low.
RCAP vdd capture 50meg
CCAP capture 0 50f IC=1.8
* invalid q=0 also restores capture high quickly; avoids analog mid-rail cleanup-control current
XCAPRST capture q vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
* candidate0 q-authorized route then shared capture gate
XQ0N sp0 q eq0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
XQ0P sp0 qb eq0 vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XQ0C eq0 qb 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
XC0 eq0 capture evm0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
RKE0 evm0 0 100Meg
XI0P myb0 evm0 vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XI0N myb0 evm0 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
* regenerative one-hot route latch; evm0 SETs rhold0, qb RESETs it when representation is invalid
XR0P0 rhold0 rhold0b vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.5
XR0N0 rhold0 rhold0b 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XR0P1 rhold0b rhold0 vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.5
XR0N1 rhold0b rhold0 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XR0SET rhold0b evm0 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
XR0RST rhold0 qb 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
CRH0 rhold0 0 20f
CRHB0 rhold0b 0 20f
.ic v(rhold0)=0 v(rhold0b)=1.8
* candidate1 identical route, used only to prove cleanup cannot create a false winner
XQ1N sp1 q eq1 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
XQ1P sp1 qb eq1 vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XQ1C eq1 qb 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
XC1 eq1 capture evm1 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
RKE1 evm1 0 100Meg
XI1P myb1 evm1 vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XI1N myb1 evm1 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
XR1P0 rhold1 rhold1b vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.5
XR1N0 rhold1 rhold1b 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XR1P1 rhold1b rhold1 vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.5
XR1N1 rhold1b rhold1 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.5
XR1SET rhold1b evm1 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
XR1RST rhold1 qb 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
CRH1 rhold1 0 20f
CRHB1 rhold1b 0 20f
.ic v(rhold1)=0 v(rhold1b)=1.8
* any captured route closes the capture window before cleanup-induced loser spikes can be stored.
XLOCK0 capture rhold0 0 0 sky130_fd_pr__nfet_01v8 W=4 L=.15
XLOCK1 capture rhold1 0 0 sky130_fd_pr__nfet_01v8 W=4 L=.15
* ordered self-clear: capture must close first. Only NOT(capture) can start recovery.
XCLP clean capture vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XCLN clean capture 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
CCLEAN clean 0 20f
* invalid representation immediately disables recovery path so precharge cannot pump the reservoir
XCLINV clean qb 0 0 sky130_fd_pr__nfet_01v8 W=2 L=.15
XRC0 s0 clean rec 0 sky130_fd_pr__nfet_01v8 W=12 L=.15
XRC1 s1 clean rec 0 sky130_fd_pr__nfet_01v8 W=12 L=.15
* ------------------------------------------------------------------
* exact kernel: new data arrives after route decision. q1 uses Myelin; q2 uses exact timeout fallback.
VDATA data 0 PULSE(0 1.8 36u 1n 1n 1u 20u)
VFB fb 0 PWL(0 0 55.5u 0 55.501u 1.8 58u 1.8 58.001u 0 70u 0)
VRPRE rpre 0 PWL(0 0 35.5u 0 35.501u 1.8 43u 1.8 43.001u 0 55.5u 0 55.501u 1.8 65u 1.8)
XRP result rpre vdd vdd sky130_fd_pr__pfet_01v8 W=.84 L=.15
* Myelin-enabled exact execution stack
XRD1 result data rxm 0 sky130_fd_pr__nfet_01v8 W=1.2 L=.15
XRD2 rxm rhold0 0 0 sky130_fd_pr__nfet_01v8 W=1.2 L=.15
* exact fallback execution stack in parallel
XRF1 result data rxf 0 sky130_fd_pr__nfet_01v8 W=1.2 L=.15
XRF2 rxf fb 0 0 sky130_fd_pr__nfet_01v8 W=1.2 L=.15
CR result 0 30f
* restore a rail-clean exact output; dynamic result node may intentionally over-discharge
XROP out result vdd vdd sky130_fd_pr__pfet_01v8 W=1.68 L=.15
XRON out result 0 0 sky130_fd_pr__nfet_01v8 W=.84 L=.15
COUT out 0 20f
* ------------------------------------------------------------------
.tran 5n 65u uic
* lease and local rebuild request
.meas tran L2 find v(lease) at=14u
.meas tran TREQ WHEN v(reqb)=.9 FALL=1 FROM=16.021u
.meas tran QSET find v(q) at=22u
* first physical query after local rebuild
.meas tran H0A find v(h0) at=30.6u
.meas tran H1A find v(h1) at=30.6u
.meas tran TS0A WHEN v(sp0)=.9 RISE=1 FROM=31u TO=42u
.meas tran SP1A find v(sp1) at=39u
.meas tran ROUTE0A find v(rhold0) at=35u
.meas tran ROUTE1A find v(rhold1) at=35u
.meas tran CAPA find v(capture) at=35u
.meas tran CLEANA find v(clean) at=35u
.meas tran RESA find v(result) at=37.5u
.meas tran OUTA find v(out) at=37.5u
.meas tran OUTA find v(out) at=37.5u
.meas tran RECA find v(rec) at=31u
.meas tran RECB find v(rec) at=35u
* invalidation and second query
.meas tran LERR find v(lease) at=44u
.meas tran QCLR find v(q) at=44u
.meas tran H0B find v(h0) at=50.6u
.meas tran SP0B find v(sp0) at=55u
.meas tran ROUTE0B find v(rhold0) at=55u
.meas tran ROUTE1B find v(rhold1) at=55u
.meas tran RESB find v(result) at=57.5u
.meas tran OUTB find v(out) at=57.5u
.meas tran OUTB find v(out) at=57.5u
* energy rails/sources core proxy
.meas tran EVDD INTEG par('v(vdd)*(-i(VDD))') from=0 to=65u
.meas tran EQ1 INTEG par('v(vdd)*(-i(VDD))') from=29u to=42u
.meas tran EQ2 INTEG par('v(vdd)*(-i(VDD))') from=49u to=60u
.meas tran EPOST INTEG par('v(vdd)*(-i(VDD))') from=42u to=65u
.end
